US07855218B2
Description 5: 1-(1,1-Dimethylethyl) 2-methyl (2S)-5-oxo-1,2-pyrrolidinedicarboxylate (D5)
To a solution of commercially available (Aldrich) methyl 5-oxo-L-prolinate (20 g, 140 mmol) in DCM (200 ml) were added triethylamine (19.6 ml, 140 mmol), 4-(dimethylamino)pyridine (17.2 g, 140 mmol) and finally, dropwise, a solution of BOC2O (61 g, 280 mmol) in DCM (100 ml). The resulting red mixture was stirred at room temperature for 2 hours. Then the solvent was removed in vacuo and the crude material was purified by chromatography on silica gel eluting with cyclohexane/ethyl acetate (7:3 to 4:6) to afford (after trituration in hexane/diethylether 1:1) the title compound as a white solid (32.4 g, 96%); Rf (cyclohexanes:ethyl acetate=65:35): 0.21; 1H NMR (300 MHz, CDCl3) δ (ppm): 4.62 (dd, 1H), 3.78 (s, 3H), 2.68-2.58 (m, 1H), 2.52-2.45 (m, 1H), 2.37-2.27 (m, 1H), 2.08-1.97 (m, 1H), 1.48 (s, 9H).

reactant | methyl 5-oxo-L-prolinate | 140 mmol, 20 g | O=C1CC[C@H](N1)C(=O)OC | C6H9NO3
reactant | triethylamine | 140 mmol, 19.6 ml | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 280 mmol, 61 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 140 mmol, 17.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(1,1-Dimethylethyl) 2-methyl (2S)-5-oxo-1,2-pyrrolidinedicarboxylate | 32.4 g, 96% | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
